US09334464B2
Preparation of (±)-1-(3,5,5,6,8,8-hexamethyl-5,6,7,8-tetrahydro-2-naphthalenyl)-ethanol
A solution of (±)-1-(3,5,5,6,8,8-hexamethyl-5,6,7,8-tetrahydro-2-naphthalenyl)-1-ethanone (10.00 g, 38.7 mmol) in ether (65 ml) was added dropwise during 1 h to a suspension of LiAlH4 (1.48 g, 39.0 mmol) in ether (70 ml) at 0° C. The reaction mixture was left warming up to room temperature and then heated to reflux for 1 day. After cooling to 0° C. more LiAlH4 (0.76 g, 19.5 mmol) was added. After refluxing for another 3 days, the mixture was cooled to 0° C. and water was added dropwise. Extraction of the organic phase with water, drying over Na2SO4 and concentrating gave 10.19 g (99%) of the product.

reactant | (±)-1-(3,5,5,6,8,8-hexamethyl-5,6,7,8-tetrahydro-2-naphthalenyl)-1-ethanone | 38.7 mmol, 10.00 g | CC=1C(=CC=2C(CC(C(C2C1)(C)C)C)(C)C)C(C)=O | C18H26O
reactant | LiAlH4 | 39.0 mmol, 1.48 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | LiAlH4 | 19.5 mmol, 0.76 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | water | O | H2O
solvent | ether | 65 ml | CCOCC | C4H10O
solvent | ether | 70 ml | CCOCC | C4H10O
product | (±)-1-(3,5,5,6,8,8-hexamethyl-5,6,7,8-tetrahydro-2-naphthalenyl)-ethanol | 10.19 g, 99% | CC=1C(=CC=2C(CC(C(C2C1)(C)C)C)(C)C)C(C)O | C18H28O
